US04720493
To a suspension of 2-amino-4-(5-aminomethyl-2-thienyl) thiazole in 150 ml of chloroform is added 10 ml of triethylamine, and 3.1 g of acetoxyacetylchloride is added dropwise with stirring at room temperature (10°-35° C.). The whole mixture is stirred at room temperature for an hour, and then washed with water. The organic layer is separated, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is recrystallized from ethanol to give 2-amino-4-(5-acetoxyacetylaminomethyl-2-thienyl) thiazole, melting at 149°-150° C. The corresponding maleate melts at 153°-154° C. with decomposition.

reactant | 2-amino-4-(5-aminomethyl-2-thienyl) thiazole | NC=1SC=C(N1)C=1SC(=CC1)CN | C8H9N3S2
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | acetoxyacetylchloride | 3.1 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-amino-4-(5-acetoxyacetylaminomethyl-2-thienyl) thiazole | NC=1SC=C(N1)C=1SC(=CC1)CNC(COC(C)=O)=O | C12H13N3O3S2
